* NGSPICE file created from gf180mcu_ocd_io__asig_5p0.ext - technology: gf180mcuD

.subckt x5LM_METAL_RAIL_PAD_60 VSUBS Bondpad_5LM_0/m2_n400_0# 5LM_METAL_RAIL_0/DVDD
+ 5LM_METAL_RAIL_0/VDD_uq0 5LM_METAL_RAIL_0/VDD 5LM_METAL_RAIL_0/VSS 5LM_METAL_RAIL_0/DVDD_uq4
+ 5LM_METAL_RAIL_0/DVDD_uq3 5LM_METAL_RAIL_0/DVDD_uq2 5LM_METAL_RAIL_0/DVSS 5LM_METAL_RAIL_0/DVDD_uq0
+ 5LM_METAL_RAIL_0/DVDD_uq1 5LM_METAL_RAIL_0/DVSS_uq0 5LM_METAL_RAIL_0/DVSS_uq6 5LM_METAL_RAIL_0/VSS_uq0
+ 5LM_METAL_RAIL_0/DVSS_uq5 5LM_METAL_RAIL_0/DVSS_uq4 5LM_METAL_RAIL_0/DVSS_uq3 5LM_METAL_RAIL_0/DVSS_uq2
+ 5LM_METAL_RAIL_0/DVSS_uq1
.ends

.subckt comp018green_esd_hbm w_n51_7356# a_1131_1121# dw_n51_n51#
D0 dw_n51_n51# a_1131_1121# diode_nd2ps_06v0 pj=0.106m area=0.15n
D1 dw_n51_n51# a_1131_1121# diode_nd2ps_06v0 pj=0.106m area=0.15n
D2 a_1131_1121# w_n51_7356# diode_pd2nw_06v0 pj=0.106m area=0.15n
D3 dw_n51_n51# a_1131_1121# diode_nd2ps_06v0 pj=0.106m area=0.15n
D4 dw_n51_n51# a_1131_1121# diode_nd2ps_06v0 pj=0.106m area=0.15n
D5 a_1131_1121# w_n51_7356# diode_pd2nw_06v0 pj=0.106m area=0.15n
D6 a_1131_1121# w_n51_7356# diode_pd2nw_06v0 pj=0.106m area=0.15n
D7 a_1131_1121# w_n51_7356# diode_pd2nw_06v0 pj=0.106m area=0.15n
.ends

.subckt GF_NI_ASIG_5P0_BASE a_13985_889# m2_828_38097# comp018green_esd_hbm_0/a_1131_1121#
+ m2_13160_36497# w_1350_806# w_2400_15668#
Xcomp018green_esd_hbm_0 w_2400_15668# comp018green_esd_hbm_0/a_1131_1121# w_1350_806#
+ comp018green_esd_hbm
X0 w_2400_15668# w_1350_806# cap_nmos_06v0 c_width=15u c_length=15u
X1 w_2400_15668# w_1350_806# cap_nmos_06v0 c_width=15u c_length=15u
X2 w_2400_15668# w_1350_806# cap_nmos_06v0 c_width=15u c_length=15u
X3 w_2400_15668# w_1350_806# cap_nmos_06v0 c_width=15u c_length=15u
X4 w_2400_15668# w_1350_806# cap_nmos_06v0 c_width=15u c_length=15u
X5 w_2400_15668# w_1350_806# cap_nmos_06v0 c_width=15u c_length=15u
X6 w_2400_15668# w_1350_806# cap_nmos_06v0 c_width=15u c_length=15u
X7 w_2400_15668# w_1350_806# cap_nmos_06v0 c_width=15u c_length=15u
X8 w_2400_15668# w_1350_806# cap_nmos_06v0 c_width=15u c_length=15u
X9 w_2400_15668# w_1350_806# cap_nmos_06v0 c_width=15u c_length=15u
X10 w_2400_15668# w_1350_806# cap_nmos_06v0 c_width=15u c_length=15u
X11 w_2400_15668# w_1350_806# cap_nmos_06v0 c_width=15u c_length=15u
X12 w_2400_15668# w_1350_806# cap_nmos_06v0 c_width=15u c_length=15u
X13 w_2400_15668# w_1350_806# cap_nmos_06v0 c_width=15u c_length=15u
X14 w_2400_15668# w_1350_806# cap_nmos_06v0 c_width=15u c_length=15u
X15 w_2400_15668# w_1350_806# cap_nmos_06v0 c_width=15u c_length=15u
X16 w_2400_15668# w_1350_806# cap_nmos_06v0 c_width=15u c_length=15u
X17 w_2400_15668# w_1350_806# cap_nmos_06v0 c_width=15u c_length=15u
X18 w_2400_15668# w_1350_806# cap_nmos_06v0 c_width=15u c_length=15u
X19 w_2400_15668# w_1350_806# cap_nmos_06v0 c_width=15u c_length=15u
X20 w_2400_15668# w_1350_806# cap_nmos_06v0 c_width=15u c_length=15u
X21 w_2400_15668# w_1350_806# cap_nmos_06v0 c_width=15u c_length=15u
X22 w_2400_15668# w_1350_806# cap_nmos_06v0 c_width=15u c_length=15u
X23 w_2400_15668# w_1350_806# cap_nmos_06v0 c_width=15u c_length=15u
X24 w_2400_15668# w_1350_806# cap_nmos_06v0 c_width=15u c_length=15u
X25 w_2400_15668# w_1350_806# cap_nmos_06v0 c_width=15u c_length=15u
X26 w_2400_15668# w_1350_806# cap_nmos_06v0 c_width=15u c_length=15u
X27 w_2400_15668# w_1350_806# cap_nmos_06v0 c_width=15u c_length=15u
X28 w_2400_15668# w_1350_806# cap_nmos_06v0 c_width=15u c_length=15u
X29 w_2400_15668# w_1350_806# cap_nmos_06v0 c_width=15u c_length=15u
D0 w_1350_806# w_2400_15668# diode_nd2ps_06v0 pj=82u area=40p
X30 w_2400_15668# w_1350_806# cap_nmos_06v0 c_width=15u c_length=15u
X31 w_2400_15668# w_1350_806# cap_nmos_06v0 c_width=15u c_length=15u
X32 w_2400_15668# w_1350_806# cap_nmos_06v0 c_width=15u c_length=15u
D1 w_1350_806# w_2400_15668# diode_nd2ps_06v0 pj=82u area=40p
X33 w_2400_15668# w_1350_806# cap_nmos_06v0 c_width=15u c_length=15u
D2 w_1350_806# w_2400_15668# diode_nd2ps_06v0 pj=82u area=40p
X34 w_2400_15668# w_1350_806# cap_nmos_06v0 c_width=15u c_length=15u
X35 w_2400_15668# w_1350_806# cap_nmos_06v0 c_width=15u c_length=15u
D3 w_1350_806# w_2400_15668# diode_nd2ps_06v0 pj=82u area=40p
.ends

.subckt gf180mcu_ocd_io__asig_5p0 ASIG5V DVDD DVSS VDD VSS
X5LM_METAL_RAIL_PAD_60_0 VSS ASIG5V DVDD VDD VDD VSS DVDD DVDD DVDD DVSS DVDD DVDD
+ DVSS DVSS VSS DVSS DVSS DVSS DVSS DVSS x5LM_METAL_RAIL_PAD_60
XGF_NI_ASIG_5P0_BASE_0 VSS VDD ASIG5V VSS DVSS DVDD GF_NI_ASIG_5P0_BASE
.ends

